US07196063B1
Loading of Lys(Mtt) on a Solid Support
2.5 gr Fmoc-Lys(Mtt)-OH was dissolved in 150 ml NMP.620 mg of HOBt was added following the addition of 1.3 gr of TBTU. Then, 3.5 gr of Rink amide resin (0.58 mmole/gr) was added and the reaction was stirred at room temperature for 3.5 hr. Then, the loaded resin was washed with NMP, MeOH, DCM and then dried in vacuum. 4.4 gr. of loaded resin was obtained.

reactant | Fmoc-Lys(Mtt)-OH | 2.5 gr | N([C@@H](CCCCNC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C41H40N2O4
reactant | HOBt | 620 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TBTU | 1.3 gr | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | NMP | 150 ml | CN1CCCC1=O | C5H9NO
product | Lys(Mtt) | N[C@@H](CCCCNC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C26H30N2O2
